US08304546B2
1-(2-Chloroethyl)-5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (3.5 g, 8.98 mmol), methyl 3-mercaptopropionate (1.19 g, 9.88 mmol), and sodium iodide (1.48 g, 9.88 mmol) were added to DMF (30 ml) and stirred at 80° C. for 5 hours. Water and ethyl acetate were added to the reaction mixture, followed by separation. The thus-obtained organic layer was washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane). The purified product was concentrated to dryness under reduced pressure, giving a pale yellow powder of methyl 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionate (3.2 g, yield: 75%).

reactant | 1-(2-Chloroethyl)-5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 8.98 mmol, 3.5 g | ClCCN1C=C(C(C2=C(C=CC(=C12)OCCC)F)=O)C1=CC=C(C=C1)OC | C21H21ClFNO3
reactant | methyl 3-mercaptopropionate | 9.88 mmol, 1.19 g | SCCC(=O)OC | C4H8O2S
reactant | sodium iodide | 9.88 mmol, 1.48 g | [I-].[Na+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | methyl 3-{2-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1-yl]ethylsulfanyl}propionate | 3.2 g, yield: 75% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCSCCC(=O)OC)C1=CC=C(C=C1)OC)=O | C25H28FNO5S
